US09278915B2
Intermediate 67: (1R,2S)-2-(4-Hydroxyphenyl)cyclopropanecarboxylic acid
To a 100 mL RB flask fitted with magnetic stirrer was charged with 22 mL of dioxan. To the stirred solvent were added (1R,2S)-2-(4-hydroxyphenyl)-N-(2-hydroxy-1-phenylethyl)cyclopropanecarboxamide (0.75 g, 2.52 mmol) and 3N sulfuric acid (22 mL). The reaction mixture was heated at 100° C. for 7 h. The reaction mixture was poured into ice and extracted with ethyl acetate (25 mL). The organic layer was washed with brine solution (25 mL). The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as pale yellow oil (0.51 g, yield: 100%). 1H NMR (300 MHz, DMSO-d6): δ 12.20 (s, 1H), 9.25 (s, 1H), 6.93-6.96 (d, 2H), 6.64-6.67 (d, 2H), 2.24-2.31 (m, 1H), 1.63-1.68 (m, 1H), 1.31-1.37 (m, 1H), 1.20-1.26 (m, 1H).

reactant | (1R,2S)-2-(4-hydroxyphenyl)-N-(2-hydroxy-1-phenylethyl)cyclopropanecarboxamide | 2.52 mmol, 0.75 g | OC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)NC(CO)C1=CC=CC=C1 | C18H19NO3
reactant | sulfuric acid | 3N, 22 mL | S(O)(O)(=O)=O | H2O4S
solvent | dioxan | 22 mL | O1CCOCC1 | C4H8O2
product | (1R,2S)-2-(4-Hydroxyphenyl)cyclopropanecarboxylic acid | 0.51 g, yield: 100% | OC1=CC=C(C=C1)[C@@H]1[C@@H](C1)C(=O)O | C10H10O3
